US07576094B2
1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] (200 mg) was dissolved in dichloromethane (15 mL) cooled in a bath (−78° C.). To this solution was added BBr3 (4 mL, 1 M in dichloromethane). The temperature was then raised to 10° C. After another 1.5 h, the mixture was quenched with 3 mL saturated NaHCO3, and extracted with ethylacetate. The organic phase was washed with brine, dried and evaporated to an oil, which was passed through a silica column (EtOAc in Hexane: 5-16% in 30 min) to give 1′-(4-chlorophenyl)-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-6′-ol (172 mg) as an off-while oil. 1H-NMR (300 MHz, CDCl3): δ=7.18-6.94 (d, 2H), 6.74-6.54 (d, 2H), 4.54 (s, 1H), 3.63 (s, 2H), 2.72 (s, 2H), 2.19 (s, 3H), 2.13 (s, 3H), 1.79 (s, 3H), 1.97-1.54 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=150.31, 148.19, 134.19, 129.01, 128.71, 128.23, 123.3, 120.69, 119.34, 119.25, 60.83, 40.61, 38.49, 32.91, 15.82, 15.56, 12.6, 11.57 ppm.

reactant | 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] | 200 mg | ClC1=CC=C(C=C1)N1CC2(CC3=C(C(=C(C(=C13)C)C)OC)C)CCC2 | C22H26ClNO
reactant | BBr3 | 1 M, 4 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1′-(4-chlorophenyl)-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-6′-ol | 172 mg | ClC1=CC=C(C=C1)N1CC2(CC3=C(C(=C(C(=C13)C)C)O)C)CCC2 | C21H24ClNO
